US05284847
2-t-Butoxycarbonylamino-4,5-dimethylthiophene-3-carboxylic acid
Ethyl 2-bis(t-butoxycarbonyl)amino-4,5-dimethylthiophene3-carboxylate (13.6 g, 34 mmol) was hydrolysed by refluxing in 70 ml of water and 140 ml of methanol with 7.63 g of potassium hydroxide. Addition of 8.1 ml of acetic acid and stirring overnight precipitated 8.27 g (90%) of 2-t-butoxycarbonylamino-4,5-dimethylthiophene-3-carboxylic acid. M.p. 185° C. (dec.). 1H-NMR (DMSO-d6, δ): 1.5 (s, 9H), 2.15 (s, 3H), 2.2 (s, 3H), 10.4 (s, 1H), 13.1 (br.s, 1H).

reactant | Ethyl 2-bis(t-butoxycarbonyl)amino-4,5-dimethylthiophene3-carboxylate | 34 mmol, 13.6 g | C(C)(C)(C)OC(=O)N(C=1SC(=C(C1C(=O)OCC)C)C)C(=O)OC(C)(C)C | C19H29NO6S
reactant | methanol | 140 ml | CO | CH4O
reactant | potassium hydroxide | 7.63 g | [OH-].[K+]
reactant | acetic acid | 8.1 ml | C(C)(=O)O | C2H4O2
solvent | water | 70 ml | O | H2O
product | 2-t-Butoxycarbonylamino-4,5-dimethylthiophene-3-carboxylic acid | C(C)(C)(C)OC(=O)NC=1SC(=C(C1C(=O)O)C)C | C12H17NO4S
